US03998844
A solution of 7.24 g (0.04 mole) of ethyl 1,4-dimethylpyrrole-2-acetate and 11.1 g (0.06 mole) of p-nitrobenzoyl chloride in 30 ml of ether under argon is stirred at room temperature in the dark for two days. The precipitate is collected by filtration. Recrystallization from isopropanol gives 11.2 g (85% yield) of ethyl 1,4-dimethyl-5-(p-nitrobenzoyl)pyrrole-2-acetate as yellow crystals, m.p. 148°-149° C.

reactant | ethyl 1,4-dimethylpyrrole-2-acetate | 0.04 mole, 7.24 g | CN1C(=CC(=C1)C)CC(=O)OCC | C10H15NO2
reactant | p-nitrobenzoyl chloride | 0.06 mole, 11.1 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | ether | 30 ml | CCOCC | C4H10O
product | ethyl 1,4-dimethyl-5-(p-nitrobenzoyl)pyrrole-2-acetate | 11.2 g, 85% yield | CN1C(=CC(=C1C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C)CC(=O)OCC | C17H18N2O5
